US04083977
Another intermediate pyrazine compound, 2-amino-5-(4-bromophenyl)-6-methylpyrazine is synthesized starting with 1-(4-bromophenyl)-1,2-propanedione 2-oxime, which oxime is obtained by the same general procedure of Hartung et al., supra. This oxime is allowed to react with aminomalononitrile tosylate, and the product, the substituted pyrazine 1-oxide, is allowed to react with phosphorus trichloride in tetrahydrofuran, according to the procedure of Taylor et al., J. Org. Chem. 38, 2817 (1973), to yield 2-amino-3-cyano-5-(4-bromophenyl)-6-methylpyrazine. This product is then hydrolyzed in sodium hydroxide and ethylene glycol and the 2-amino-3-carboxy-5-(4-bromophenyl)-6-methylpyrazine so obtained is decarboxylated by heating in tetrahydronaphthalene to yield 2-amino-5-(4-bromophenyl)-6-methylpyrazine.

reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | 2-amino-3-carboxy-5-(4-bromophenyl)-6-methylpyrazine | NC1=NC(=C(N=C1C(=O)O)C1=CC=C(C=C1)Br)C | C12H10BrN3O2
solvent | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydronaphthalene | C1CCCC2=CC=CC=C12 | C10H12
product | 2-amino-5-(4-bromophenyl)-6-methylpyrazine | NC1=NC(=C(N=C1)C1=CC=C(C=C1)Br)C | C11H10BrN3
